US05965614
Synthesis of D,L-alanine Iso-butyl Ester Hydrochloride
A mixture of 35.64 g (0.4 mol) of D,L-alanine (Aldrich), 44 mL (0.6 mol) of thionyl chloride (Aldrich) and 200 mL of iso-butanol was refluxed for 1.5 hours. The volatiles were removed at reduced pressure at 90° C. under reduced pressure to give the title compound as an oil, which was used without further purification.

reactant | D,L-alanine | 0.4 mol, 35.64 g | NC(C)C(=O)O | C3H7NO2
reactant | thionyl chloride | 0.6 mol, 44 mL | S(=O)(Cl)Cl | Cl2OS
reactant | iso-butanol | 200 mL | C(C(C)C)O | C4H10O
product | D,L-alanine Iso-butyl Ester Hydrochloride | Cl.C(C(C)C)OC(C(N)C)=O | InChI=1S/C7H15NO2.ClH/c1-5(2)4-10-7(9)6(3)8;/h5-6H,4,8H2,1-3H3;1H
